US07572820B2
1-{[5-(5-Bromo-2-furanyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C from [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 5-bromo-2-furancarbohydrazide: MS (ES) m/z 437 and 439 (M+1 Br isotopes).

reactant | [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=CN(C2=CC1)CC(=O)O)C(F)(F)F | C12H7F3N2O2
reactant | 5-bromo-2-furancarbohydrazide | BrC1=CC=C(O1)C(=O)NN | C5H5BrN2O2
product | 1-{[5-(5-Bromo-2-furanyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC1=CC=C(O1)C1=NN=C(O1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C17H8BrF3N4O2
